US07750154B2
Nickel acetate tetrahydrate (0.119 g) was added to a suspension of Borohydride on Amerlite IRA-400 resin (8.96 g) in methanol (90 ml). Gas was evolved and the resin turned from a light gold to black. After 1 minute the N-cyclopropyl-4-methyl-3-[(2-nitrobenzoyl)amino]benzamide (1.52 g) was added in a single portion and the mixture stirred at room temperature. After 1 hour the reaction was filtered through diatomaceous earth (Celite®) and the filtrate concentrated onto silica gel (2.0 g). Purification by column chromatography (isolute silica 50 g column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using a gradient of 0% iso-propanol/iso-hexane through to 50% iso-propanol/iso-hexane to give 3-[(2-aminobenzoyl)amino]-N-cyclopropyl-4-methylbenzamide as a white solid (0.159 g); NMR Spectrum: (DMSOd6) 0.58 (m, 2H), 0.69 (m, 2H), 2.26 (s, 3H), 2.85 (m, 1H), 6.40 (s, 2H), 6.59 (t, 1H), 6.76 (d, 1H), 7.21 (t, 1H), 7.33 (d, 1H), 7.63 (m, 1H), 7.72 (d, 1H), 7.78 (d, 1H), 8.36 (d, 1H), 9.70 (d, 1H); Mass Spectrum: M+H+ 310.

reactant | Borohydride | [BH4-]
reactant | N-cyclopropyl-4-methyl-3-[(2-nitrobenzoyl)amino]benzamide | 1.52 g | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C18H17N3O4
solvent | methanol | 90 ml | CO | CH4O
catalyst | Nickel acetate tetrahydrate | 0.119 g | O.O.O.O.C(C)(=O)[O-].[Ni+2].C(C)(=O)[O-]
catalyst | gold | [Au] | Au
product | 3-[(2-aminobenzoyl)amino]-N-cyclopropyl-4-methylbenzamide | 0.159 g | NC1=C(C(=O)NC=2C=C(C(=O)NC3CC3)C=CC2C)C=CC=C1 | C18H19N3O2
